US04497650
2,2-Dimethyl-N,3-diisopropyl-4-oxo-2,3,4,10-tetrahydro-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide
The title compound was prepared from 2-aminobenzimidazole, acetone and isopropyl isocyanate employing the method of the first paragraph of Example 1. The product was purified by column chromatography on silica, eluting with chloroform to give a white solid, mp 80°-89° C. The confirmatory elemental analysis is shown in Table III.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | isopropyl isocyanate | C(C)(C)N=C=O | C4H7NO
reactant | acetone | CC(=O)C | C3H6O
product | 2,2-Dimethyl-N,3-diisopropyl-4-oxo-2,3,4,10-tetrahydro-1,3,5-triazino[1,2-a]benzimidazole-10-carboxamide | CC1(N=C2N(C3=C(N2C(N1C(C)C)=O)C=CC=C3)C(=O)NC(C)C)C | C18H25N5O2
